US07572820B2
A. 4-(Chloromethyl)-2-[3-(trifluoromethyl)phenyl]-1,3-oxazole
3-(Trifluoromethyl)benzamide (0.300 g, 1.59 mmol) and 1,3-dichloro-2-propanone (0.201 g, 1.59 mmol) were heated to 130° C. for 0.5 h. Then another 0.201 g of 1,3-dichloro-2-propanone (1.59 mmol) was added and the mixture was heated again at 130° C. for 1 h. After being cooled down, the residue was purified by radial chromatography (0-30% EtOAc-hexanes gradient) to afford the title compound (0.280 g, 67% yield): 1H NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 8.22 (d, J=7.9 Hz, 1H), 7.75 (s, 1H), 7.72 (d, J=7.9 Hz, 1H), 7.60 (t, J=7.9 Hz, 1H), 4.58 (s, 2H).

reactant | 3-(Trifluoromethyl)benzamide | 1.59 mmol, 0.300 g | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
reactant | 1,3-dichloro-2-propanone | 1.59 mmol, 0.201 g | ClCC(CCl)=O | C3H4Cl2O
reactant | 1,3-dichloro-2-propanone | 1.59 mmol, 0.201 g | ClCC(CCl)=O | C3H4Cl2O
product | 4-(Chloromethyl)-2-[3-(trifluoromethyl)phenyl]-1,3-oxazole | 0.280 g, 67% yield | ClCC=1N=C(OC1)C1=CC(=CC=C1)C(F)(F)F | C11H7ClF3NO
